US09062013B2
2,2-Dimethyl-trans-N-(5-methylthiazol-2-yl)-3-phenylcyclopropanecarboxamide
2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid (250 mg, 1.32 mmol) and 2-amino-5-methylthiazole (150 mg, 1.31 mmol) were reacted as described under General Procedure D to furnish the title compound (232 mg, 61%) as a yellow foam. 1H NMR (300 MHz, CDCl3) δ 7.33-7.17 (m, 6H), 7.02 (s, 1H), 2.95 (d, J=5.6 Hz, 1H), 2.37 (s, 3H), 2.08 (d, J=5.6 Hz, 1H), 1.44 (s, 3H), 1.03 (s, 3H). mp 132-135° C. ESIMS m/z [M+H]+ 287.1.

reactant | 2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid | 1.32 mmol, 250 mg | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C | C12H14O2
reactant | 2-amino-5-methylthiazole | 1.31 mmol, 150 mg | NC=1SC(=CN1)C | C4H6N2S
product | 2,2-Dimethyl-trans-N-(5-methylthiazol-2-yl)-3-phenylcyclopropanecarboxamide | 232 mg, 61% | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)NC=1SC(=CN1)C)C | C16H18N2OS
